US08258140B2
Isopropylmagnesium chloride-lithium chloride complex (1M, 21.46 mL, 21.46 mmol) was added to 2-bromo-1-(difluoromethyl)-4-fluorobenzene (4.39 g, 19.51 mmol) in THF (120 mL) cooled to −20° C. under nitrogen. The resulting solution was stirred at −20° C. for 1 hour. N,N-Dimethylformamide (1.813 mL, 23.41 mmol) was added, and the mixture stirred for a further 1 hour, maintaining the temperature in the range −15 to −20° C. The mixture was allowed to warm to ambient temperature, then 2M hydrochloric acid (100 mL) was added and the mixture was extracted with EtOAc (150 mL). The organic layer was washed with saturated sodium bicarbonate (120 mL) and concentrated to yield crude product. The crude product was purified by flash silica chromatography, elution gradient 5 to 10% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford 2-(difluoromethyl)-5-fluorobenzaldehyde (1.250 g, 36.8%) as a colourless liquid.

reactant | 2-bromo-1-(difluoromethyl)-4-fluorobenzene | 19.51 mmol, 4.39 g | BrC1=C(C=CC(=C1)F)C(F)F | C7H4BrF3
reactant | N,N-Dimethylformamide | 23.41 mmol, 1.813 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 2M, 100 mL | Cl | ClH
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-(difluoromethyl)-5-fluorobenzaldehyde | 1.250 g, 36.8% | FC(C1=C(C=O)C=C(C=C1)F)F | C8H5F3O
